US09388177B2
[4-bromo-3-(2,2,2-trifluoroethoxy)phenyl](pyrrolidin-1-yl)methanone
Starting with 4-bromo-3-(2,2,2-trifluoroethoxy)benzoic acid and pyrrolidin, Int06.06 was prepared analogously to the procedure for the preparation of Int02.05.

reactant | 4-bromo-3-(2,2,2-trifluoroethoxy)benzoic acid | BrC1=C(C=C(C(=O)O)C=C1)OCC(F)(F)F | C9H6BrF3O3
reactant | pyrrolidin | N1CCCC1 | C4H9N
product | [4-bromo-3-(2,2,2-trifluoroethoxy)phenyl](pyrrolidin-1-yl)methanone | BrC1=C(C=C(C=C1)C(=O)N1CCCC1)OCC(F)(F)F | C13H13BrF3NO2
